US08871934B2
2-chloro-4-methyl-9-trifluoromethyl-9H-fluoren-9-ol
Under anhydrous calcium chloride drying conditions, 2-chloro-4-methyl-fluoren-9-one (18.627 g), potassium carbonate (3.372 g) and dimethylformamide (100 ml) were mixed, trimethyl(trifluoromethyl)silane (16 ml) was added dropwise over 25 min at room temperature with stirring, and the mixture was further stirred at room temperature for 14 min. To this mixture, a 1M solution (122 ml) of tetrabutylammonium fluoride in tetrahydrofuran was added dropwise over 6 min. To the reaction mixture was added aqueous ammonium chloride (400 ml), and the mixture was extracted with ethyl acetate (200 ml). The organic layer was washed once with water (100 ml), once with saturated aqueous sodium hydrogen carbonate and 3 times with water, and concentrated under reduced pressure. The obtained residue was dissolved in methanol (200 ml), activated carbon (1.5 g) was added, and the mixture was stirred at room temperature for 10 min. The mixture was filtered, and the filtrate was concentrated under reduced pressure to give the title compound (24.689 g). The obtained residue was directly used for the next reaction without further purification.

reactant | 2-chloro-4-methyl-fluoren-9-one | 18.627 g | ClC1=CC=2C(C3=CC=CC=C3C2C(=C1)C)=O | C14H9ClO
reactant | potassium carbonate | 3.372 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethyl(trifluoromethyl)silane | 16 ml | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-chloro-4-methyl-9-trifluoromethyl-9H-fluoren-9-ol | 24.689 g | ClC1=CC=2C(C3=CC=CC=C3C2C(=C1)C)(O)C(F)(F)F | C15H10ClF3O
